US03959282
14.8 g of 3-(amino-benzoyl)thiophene, 23.8 g of solid potassium hydroxide and 19.6 g of hydrazine hydrate are heated to the boil at reflux in 180 cc of diethylene glycol for 3 hours. After diluting the reaction mixture with ice water, extraction is effected with ether. The ether phase is washed thrice with water, is dried with sodium sulphate and concentrated. 3-(2-amino-benzyl)thiophene is obtained in the form of a light yellow oil having a B.P. of 121°-123° 10.05 mm Hg.

reactant | 3-(amino-benzoyl)thiophene | 14.8 g | NC1=C(C(=O)C2=CSC=C2)C=CC=C1 | C11H9NOS
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrazine hydrate | 19.6 g | O.NN
solvent | diethylene glycol | 180 cc | C(COCCO)O | C4H10O3
product | 3-(2-amino-benzyl)thiophene | NC1=C(CC2=CSC=C2)C=CC=C1 | C11H11NS
